US05036066
A suspension of 0.676 g of 6,7-dihydro-1-(hydroxymethyl)-3-phenyl-10-chloro-4H-benzo[a]quinolizine-4-one in 18 ml of dioxane was treated with 0.6 ml of phenyl chloroformate and 0.42 ml of pyridine and stirred at room temperature for 3 hours. 1.03 g of aminoacetonitrile were then added and the mixture was stirred at 100° until carbonate was no longer present according to thin-layer chromatography. After evaporation, the residue was taken up in chloroform, washed twice with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. Chromatography over silica gel [elution agent toluene/dioxane (9:1)] gave [[(10-chloro-6,7-7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl]amino]acetonitrile of m.p. 181°-183° (from methanol) as as well as in a second fraction (10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl-(cyanomethyl)carbamate of m.p. 166°-167° (from toluene).

reactant | 6,7-dihydro-1-(hydroxymethyl)-3-phenyl-10-chloro-4H-benzo[a]quinolizine-4-one | 0.676 g | OCC=1C=C(C(N2CCC3=C(C12)C=C(C=C3)Cl)=O)C3=CC=CC=C3 | C20H16ClNO2
reactant | phenyl chloroformate | 0.6 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | aminoacetonitrile | 1.03 g | NCC#N | C2H4N2
reactant | carbonate | C([O-])([O-])=O
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 0.42 ml | N1=CC=CC=C1 | C5H5N
product | (10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-yl)methyl-(cyanomethyl)carbamate | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)COC(NCC#N)=O)C1 | C23H18ClN3O3
